* Schematics Netlist *



R_R3         UCC $N_0001  1245  
D_D1         0 $N_0001 D02CZ5_1 
V_V2         UCC 0 30
R_R1         $N_0003 $N_0002  1k  
R_R2         0 $N_0003  739  
R_R4         0 $N_0002  {zatez}  
X_U1A         $N_0001 $N_0003 UCC 0 $N_0004 TL082
Q_Q1         UCC $N_0005 $N_0006 Q2N3055
Q_Q3         UCC $N_0004 $N_0005 Q2N2222
Q_Q4         $N_0004 $N_0006 $N_0002 Q2N2222
R_R5         $N_0006 $N_0002  0.12  
