* Schematics Netlist *



R_R3         0 $N_0001  {zatez}  
D_D2         0 $N_0001 D02CZ5_1 
V_V2         $N_0002 0 32
R_R5         $N_0002 $N_0001  13  
