* Schematics Netlist *



R_R1         V1 $N_0001  5  
R_R4         0 $N_0002  10MEG  
V_V1         V1 0  
+SIN 0 325 50 0 0 0
R_R2         $N_0004 $N_0003  1  
C_C1         $N_0002 $N_0005  8m  
D_D2         $N_0002 $N_0006 D02CZ5_1 
R_R3         $N_0002 $N_0006  {5.1/2}  
R_R5         $N_0005 $N_0006  10.9  
D_D1         $N_0003 $N_0005 D1N4007 
L_L2         $N_0001 0  1  
L_L1         $N_0002 $N_0004  20m  
Kn_K1         L_L2 L_L1     1
