***** NE5532 Source: Texas Instruments NE5534
* C2 added to simulate compensated frequency response (Uwe Beis)

* NE5532 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING NE5534 model from Texas InstrumentsAT 12:41
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
*$
.SUBCKT NE5532   1 2 3 4 5
*
C1   11 12 7.703E-12
C2    6  7 23.500E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 2.893E6 -3E6 3E6 3E6 -3E6
GA    6  0 11 12 1.382E-3
GCM   0  6 10 99 13.82E-9
IEE  10  4 DC 133.0E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   3 11 723.3
RC2   3 12 723.3
RE1  13 10 329
RE2  14 10 329
REE  10 99 1.504E6
RO1   8  5 50
RO2   7 99 25
RP    3  4 7.757E3
VB    9  0 DC 0
VC    3 53 DC 2.700
VE   54  4 DC 2.700
VLIM  7  8 DC 0
VLP  91  0 DC 38
VLN   0 92 DC 38
.MODEL DX D(IS=800.0E-18)
.MODEL QX NPN(IS=800.0E-18 BF=132)
.ENDS
*$
***********************************************************************************************************************
***usek_vedeni***
.SUBCKT usek_vedeni in out zem PARAMS: indukcnost=10u svod=100k kapacita=3p

R1 out zem {svod}
L1 in out {indukcnost}
C1 out zem {kapacita}

.ENDS usek_vedeni
*$
***********************************************************************************************************************
*** Schematics Subcircuit ***

.SUBCKT Second_order_filter Vin Vout Gnd PARAMS: rezistor_R1=0 rezistor_R2=0 kondenzator_C1=0 kondenzator_C2=0 

.MODEL Rodpor RES R=1 DEV 1%;v procentech !!, model Rodpor je model rezistoru s nasobitelem x1 a toleranci soucastky 30% 
.MODEL Ckapacita CAP C=1 DEV 5%

V_V3         Gnd $N_0001 18V 
V_V4         $N_0002 Gnd 18V
X_U2A         $N_0003 Vout $N_0002 $N_0001 Vout TL082
R_R2         $N_0004 $N_0003 Rodpor {rezistor_R2}  
C_C1         Gnd $N_0003 Ckapacita {kondenzator_C1}  
C_C2         $N_0004 Vout Ckapacita {kondenzator_C2}  
R_R1         Vin $N_0004 Rodpor {rezistor_R1}  
.ENDS
*$
