* Schematics Netlist *



V_V1         $N_0001 0 10V
V_V2         $N_0002 0 15V
R_R1         $N_0001 $N_0002  1m  
L_L1         0 $N_0003  10uH  
R_R3         $N_0004 $N_0003  10m  
V_V3         $N_0004 0 8V
I_I1         0 $N_0005 DC 1A  
I_I2         $N_0005 0 DC 1A  
R_R5         0 $N_0005  10MEG  
R_R6         0 $N_0006  1k  
C_C2         $N_0007 $N_0006  0.5n  
R_R7         0 $N_0008  1k  
C_C3         $N_0009 $N_0008  1n  
C_C4         $N_0010 $N_0009  1n  
R_R8         0 $N_0009  10MEG  
V_V7         $N_0007 0 5V
V_V9         $N_0010 0 6
