* Schematics Netlist *



Q_Q1         out1 $N_0001 0 Q2N2222
V_V1         $N_0002 0 12
R_R3         0 $N_0001  5.75k  
R_R2         $N_0001 $N_0002  100k  
R_R1         out1 $N_0002  10k  
V_V2         $N_0003 0 12
R_R5         $N_0004 $N_0003  100k  
R_R6         out2 $N_0003  10k  
Q_Q2         out2 $N_0004 $N_0005 Q2N2222
R_R4         0 $N_0004  18.8k  
R_R7         0 $N_0005  2k  
