* Schematics Subcircuit *


.SUBCKT IF_IN_IF_OUT_Schematic2 gnd in out PARAMS: indukcnost=10u svod=100k kapacita=3p ; od PARAMS jsem to musel dopsat rucne
L_L1         in out  {indukcnost}  
R_R1         gnd out  {svod}  
C_C1         gnd out  {kapacita}  
.ENDS    IF_IN_IF_OUT_Schematic2
