* Schematics Netlist *



L_L1         in $N_0001  10u  
R_R1         0 $N_0001  0.2  
C_C1         in $N_0002  10n  
R_R2         0 $N_0002  0.1  
V_V1         in 0  AC 1
+SIN 0 0 0 0 0 0
