* Schematics Netlist *



V_V1         IN 0 DC 0V AC 1V 
R_R1         0 OUT  {odpor}  
E_E2         OUT 0 LAPLACE { V(IN, 0) } = { {fp/((fp_2)*(fp*1.4142*s)*(s_2))} }
