* Schematics Netlist *



R_R2         0 out  1k  
V_V1         in 0 20V
R_R1         in out  1k  
R_R4         0 $N_0001  1k  
V_V2         $N_0002 0  
+SIN 0 5 1k 0 0 0
R_R3         $N_0002 $N_0001  1k  
