* Schematics Netlist *



R_Rz1         0 out1  100k  
R_R46         in $N_0001  100k  
R_R47         $N_0001 $N_0002  100k  
C_C34         0 $N_0002  150p  
R_R48         out1 $N_0003  100k  
R_Rz2         0 out2  100k  
C_C37         $N_0003 out2  150p  
V_Voz+         $N_0004 0 +18
R_R49         $N_0003 $N_0005  100k  
X_OZ6         $N_0002 out1 $N_0004 $N_0006 out1 LF156/LT
V_Voz-         0 $N_0006 +18
C_C35         $N_0001 out1  {kondenzator35}  
X_OZ7         $N_0005 out2 $N_0004 $N_0006 out2 LF156/LT
C_C36         0 $N_0005  150p  
V_V12         in 0  AC 200m
+PULSE 0 200m 0 0 0 500u 1m
