* Schematics Netlist *



X_X2         in out 0 usek_vedeni PARAMS: indukcnost=10u svod=100k kapacita=3p
R_R1         0 out  1k  
V_V1         in 0  
+SIN 0 1 1k 0 0 0
