* Schematics Netlist *



V_V1         +15V 0 15V
V_V2         0 -15V 15V
R_R1         in $N_0001  1k  
R_R2         $N_0001 out  2k  
V_V3         in 0  
+SIN 0 1 1k 0 0 0
R_R3         out 0  1MEG  
X_X2         0 $N_0001 +15V -15V out NE5532
