* Schematics Netlist *



R_R2         0 0  1MEG  
V_V1         in 0 10
X_R1    0 in 0 potenciometr_Schematic_R1 

.subckt potenciometr_Schematic_R1 1 2 t  
RT_R1         1 t {({hodnotaP1}*(1-{nastaveniP1}))+.001}
RB_R1         t 2 {({hodnotaP1}*{nastaveniP1})+.001}
.ends potenciometr_Schematic_R1
