* Schematics Netlist *



V_V1         $N_0001 0 15V
C_C1         0 $N_0002  1u IC=0 
R_R1         $N_0001 $N_0003  1k  
X_U1         $N_0003 $N_0002 Sw_tClose PARAMS: tClose=2m ttran=1u Rclosed=0.01
+  Ropen=1Meg
