* Schematics Netlist *



D_D1         in out D1N4007 
D_D2         0 out D1N4007 
D_D4         out- 0 D1N4007 
D_D3         out- in D1N4007 
R_R1         out- out  1MEG  
V_V1         in 0  AC 30
+SIN 0 30 50 0 0 0
